US05936129
A 500 mL 4 neck round bottom flask equipped with mechanical stirring, a nitrogen inlet, a thermometer, a condenser, and an addition funnel was charged with 60% sodium hydride in mineral oil (20.5 g, 0.51 mol), methyl neo-octanoate (92.3 g, 0.58 mol), and xylene (42.8 g). The mixture was heated to reflux (135° C.), and then a solution of acetophenone (32.4 g, 0.27 mol) in xylene (19.1 g) was added over 1.25 h. The mixture was kept at reflux for an additional 1 h. After cooling to room temperature, the reaction was quenched by the careful addition of methanol (20 mL), and then acidified with 150 g/L sulfuric acid (180 mL). After separation of layers, the organic phase was washed with water (2×100 mL) and brine (100 mL). After drying by passing through anhydrous sodium sulfate, the solution was concentrated in vacuo at 70° C. down to 12 mbar to yield an orange liquid containing product in a crude yield of 63%. Vacuum distillation (200 mtorr) through a 15 cm Vigreux column yielded the product in the heart cut: 1-phenyl-3-neoheptyl-1,3-propanedione (37.2 g, 96% pure, 0.14 mol; 53% yield; bp: 94-135° C.). Dypnone was undetectable in the product.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl neo-octanoate | 0.58 mol, 92.3 g | C(CCCC(C)(C)C)(=O)OC | C9H18O2
reactant | acetophenone | 0.27 mol, 32.4 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | xylene | 19.1 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 42.8 g | C=1(C(=CC=CC1)C)C | C8H10
product | 1-phenyl-3-neoheptyl-1,3-propanedione | 0.14 mol, 37.2 g, 53% yield | C1(=CC=CC=C1)C(CC(=O)CCCC(C)(C)C)=O | C16H22O2
